US05252580
2,9-Diethyl-6-(3-(2-dibenzylaminoethyl)-1-tosyl-indole-2-yl)hydroxymethyl-1,2,3,4,4a,9a-hexahydro-pyrido[3,4-b]indole
2.18 ml of n-BuLi (15% hexane) were added under ice-cooling to a solution of 1-tosyl-N,N-dibenzyltryptamine (1.72 g) in anhydrous THF, which was cooled with dry ice-acetone. 6-Formyl-2,9-dimethyl-1,2,3,4,4a,9a-hexahydropyrido[3,4-b]indole (0.6 g) was added and the mixture stirred for 4 hrs. Methanol was added and the solvent was removed by evaporation from the reaction solution. The residue to which water was added was extracted with ethyl acetate. The ethyl acetate layer was washed with water and then brine, dried over magnesium sulfate. The crude product was purified by column chromatography on silica gel. Eluates with 3% methanol/chloroform gave 1.15 g of the title compound.

reactant | n-BuLi | 2.18 ml | [Li]CCCC
reactant | 1-tosyl-N,N-dibenzyltryptamine | 1.72 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(CCN(CC2=CC=CC=C2)CC2=CC=CC=C2)C2=CC=CC=C12 | C31H30N2O2S
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | 6-Formyl-2,9-dimethyl-1,2,3,4,4a,9a-hexahydropyrido[3,4-b]indole | 0.6 g | C(=O)C=1C=C2C3C(N(C2=CC1)C)CN(CC3)C | C14H18N2O
reactant | THF | C1CCOC1 | C4H8O
solvent | Methanol | CO | CH4O
product | 2,9-Diethyl-6-(3-(2-dibenzylaminoethyl)-1-tosyl-indole-2-yl)hydroxymethyl-1,2,3,4,4a,9a-hexahydro-pyrido[3,4-b]indole | 1.15 g | C(C)N1C(C2N(C3=CC=C(C=C3C2CC1)C=1N(C2=CC=CC=C2C1CCN(CC1=CC=CC=C1)CC1=CC=CC=C1)S(=O)(=O)C1=CC=C(C)C=C1)CC)CO | C47H52N4O3S
